US06630488B1
Compound XXXVI: (+/−)-3-{[8-(2-Amino-ethylamino)-4-oxo-4H-quinolizine-3-carbonyl]-amino}-3-phenyl-propionic Acid
To solution of (+/−)-3-[(8-Chloro-4-oxo-4H-quinolizine-3-carbonyl)-amino]-3-phenyl-propionic acid ethyl ester (32 mg, 0.080 mmol) in anhydrous pyridine (0.7 ml) at room temperature were sequentially added N-Boc-1,3-diaminopropane (30.9 mg, 0.19 mmol)and triethylamine (31.4 μl, 0.23 mmol). The resulting mixture was heated at 60° C. for 18 h. The solvent was removed under vacuum and the resulting residue subjected to a silica gel chromatography (EtOAc to EtOAc: MeOH=9:1) to give the desired product as yellowish solid (30 mg, 73%)

reactant | (+/−)-3-[(8-Chloro-4-oxo-4H-quinolizine-3-carbonyl)-amino]-3-phenyl-propionic acid ethyl ester | 0.080 mmol, 32 mg | C(C)OC(CC(C1=CC=CC=C1)NC(=O)C1=CC=C2C=C(C=CN2C1=O)Cl)=O | C21H19ClN2O4
reactant | N-Boc-1,3-diaminopropane | 0.19 mmol, 30.9 mg | C(=O)(OC(C)(C)C)NCCCN | C8H18N2O2
reactant | triethylamine | 0.23 mmol, 31.4 μl | C(C)N(CC)CC | C6H15N
solvent | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
product | (+/−)-3-{[8-(2-Amino-ethylamino)-4-oxo-4H-quinolizine-3-carbonyl]-amino}-3-phenyl-propionic Acid | 30 mg, 73% | NCCNC=1C=CN2C(C(=CC=C2C1)C(=O)NC(CC(=O)O)C1=CC=CC=C1)=O | C21H22N4O4
